US05444072
A solution of methyl (E) 6-(1,3-dihydro-7-methyl-3-oxo-4-p-toluenesulfonyloxy-6-vinylisobenzofuran-5-yl)-4-methyl-4-hexenoate (17.7 g) and tris(triphenylphosphine)rhodium chloride (1.2 g) in benzene (180 ml) and ethanol (180 ml) was hydrogenated for 11 hours. The solvents were removed under vacuum and the residue was crystallized from ethyl acetate/tert-butyl methyl ether to afford methyl (E) 6-(1,3-dihydro-6-ethyl-7-methyl-3-oxo-4-p-toluenesulfonyloxyisobenzofuran-5-yl)-4-methyl-4-hexenoate, m.p. 101.3°-102.8° C.

reactant | methyl (E) 6-(1,3-dihydro-7-methyl-3-oxo-4-p-toluenesulfonyloxy-6-vinylisobenzofuran-5-yl)-4-methyl-4-hexenoate | 17.7 g | CC=1C(=C(C(=C2C(OCC12)=O)OS(=O)(=O)C1=CC=C(C=C1)C)C/C=C(/CCC(=O)OC)\C)C=C | C26H28O7S
solvent | benzene | 180 ml | C1=CC=CC=C1 | C6H6
solvent | ethanol | 180 ml | C(C)O | C2H6O
catalyst | tris(triphenylphosphine)rhodium chloride | 1.2 g | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.[Cl-].[Rh]
product | methyl (E) 6-(1,3-dihydro-6-ethyl-7-methyl-3-oxo-4-p-toluenesulfonyloxyisobenzofuran-5-yl)-4-methyl-4-hexenoate | C(C)C1=C(C(=C2C(OCC2=C1C)=O)OS(=O)(=O)C1=CC=C(C=C1)C)C/C=C(/CCC(=O)OC)\C | C26H30O7S
